US04911887
Triisopropyl phosphite (0.33 ml, 1.2 mmol) was added to the 2-phosphono-5-bromotetrahydrofuran prepared in accordance with the process of Example II. The mixture was heated over a period of one half hour under a nitrogen atmosphere to 170° C. It was held at this temperature for two and one quarter hours and then cooled to room temperature. Concentrated hydrochloric acid (15 ml) was added and the resulting mixture was heated to reflux for five hours. The volatile components were removed under vacuum leaving 2,5-diphosphonotetrahydrofuran ("DPTHF") containing phosphorous acid as an impurity. The identity of the 2,5-diphosphonotetrahydrofuran was established by nuclear magnetic resonance spectroscopy (proton, phosphorus and carbon-13) and fast atom bombardment mass spectroscopy

reactant | Triisopropyl phosphite | 1.2 mmol, 0.33 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
reactant | 2-phosphono-5-bromotetrahydrofuran | P(=O)(O)(O)C1OC(CC1)Br | C4H8BrO4P
reactant | hydrochloric acid | 15 ml | Cl | ClH
product | 2,5-diphosphonotetrahydrofuran | P(=O)(O)(O)C1OC(CC1)P(=O)(O)O | C4H10O7P2
